US08133995B2
1-{4-[4-amino-7-formyl-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-fluorophenyl}-3-[2-fluoro-5-(trifluoromethyl)phenyl]urea
To a solution of THF (35 mL) was added 1-{4-[4-amino-7-bromo-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-fluorophenyl}-3-[2-fluoro-5-(trifluoromethyl)phenyl]urea (200 mg, 0.35 mmol). The solution was cooled to −77° C., and then 2.5 M n-BuLi in hexanes (0.70 mL, 1.75 mmol) was added. The reaction was stirred for 1 min and then DMF (0.16 mL, 2.1 mmol) was added. The solution was stirred for an additional 5 min, and the ice bath was removed. The reaction was allowed to warm to rt over the following 1 h. EtOAc was added to the solution followed by water. The solution was separated and the aqueous layer was back extracted with EtOAc. The combined organic fractions were dried (MgSO4), filtered, and evaporated yielding the title compound as crude material (216 mg, 119%). MS [M+H]+=521; LCMS RT=3.49.

reactant | 1-{4-[4-amino-7-bromo-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-fluorophenyl}-3-[2-fluoro-5-(trifluoromethyl)phenyl]urea | 0.35 mmol, 200 mg | NC1=NC=NN2C1=C(C(=C2Br)COC)C2=CC(=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F)F | C22H16BrF5N6O2
reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | DMF | 2.1 mmol, 0.16 mL | CN(C)C=O | C3H7NO
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 1-{4-[4-amino-7-formyl-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-fluorophenyl}-3-[2-fluoro-5-(trifluoromethyl)phenyl]urea | NC1=NC=NN2C1=C(C(=C2C=O)COC)C2=CC(=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F)F | C23H17F5N6O3
